* Vector Fitting — Behavioral Laplace Subcircuit (LTspice)
* Generated by vfit/export/spice_export.py
* Poles: 4   RMS error: 3.434e-01
* Normalization: w0 = 1.701745e+08 rad/s  (sn = s/w0 is order-1 across band)

.SUBCKT TWO_RLC_LAPLACE in out 0
* V(out,0) = H(s) * V(in,0)
* H(s) = NUM(sn) / DEN(sn),  sn = s / w0
E1 out 0 LAPLACE {V(in,0)} = {(-2.075451e+35+-6.176468e+34*(s/1.701745e+08)+1.073785e+36*(s/1.701745e+08)**2+7.246884e+35*(s/1.701745e+08)**3+5.648461e+30*(s/1.701745e+08)**4)/(-3.233243e+34+3.616394e+34*(s/1.701745e+08)+5.893401e+34*(s/1.701745e+08)**2+1.759937e+33*(s/1.701745e+08)**3+8.386441e+32*(s/1.701745e+08)**4)}
Rbleed out 0 1G   ; DC path — prevents floating node warning

.ENDS TWO_RLC_LAPLACE

